US04145538
To a stirred slurry of 100 milligrams of 7-(5-(chloroacetamido)-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid in 10 milliliters of absolute methylene chloride was added 0.1 milliliters of pyridine and 0.15 milliliters of trimethylchlorosilane. The reaction mixture was stirred for two and one-half hours at room temperature. Then the reaction mixture was cooled to -15° C. and 0.2 milliliter of pyridine (in one lot), and 1.2 milliliter of 10 percent phosphorus pentachloride in absolute methylene chloride added dropwise, and the mixture stirred at -15° C. for two and one-half hours. Then 2 milliliters of absolute methanol were added, and the reaction mixture stirred for thirty minutes at -15° C. and for another thirty minutes at room temperature. Then 0.3 milliliter of 50 percent formic acid was added and the pH adjusted to 2 by adding triethylamine and stirring for forty-five minutes. The reaction mixture became cloudy. Then the pH was adjusted to 3.4, and the reaction mixture stirred for two hours in an ice bath and filtered. There was obtained 15 milligrams of 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. It was identified by bioautogram and UV, which showed λ max. 262 nm (ε 5800).

reactant | 7-(5-(chloroacetamido)-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 100 milligrams | ClCC(=O)NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)O | C17H21ClN4O9S
reactant | pyridine | 0.1 milliliters | N1=CC=CC=C1 | C5H5N
reactant | trimethylchlorosilane | 0.15 milliliters | C[Si](Cl)(C)C | C3H9ClSi
reactant | pyridine | 0.2 milliliter | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 1.2 milliliter | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 10 milliliters | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | formic acid | 0.3 milliliter | C(=O)O | CH2O2
solvent | methanol | 2 milliliters | CO | CH4O
product | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 15 milligrams | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
